US04623742
2-[3-(2-chloroethyl)-2-(2-chloroethylamino)-2-oxo-tetrahydro-2H-1,3,2-oxazaphosphorin-4-yl-thio]-ethanesulphonic acid cyclohexylammonium salt
277 mg (1 mmol) of 3-(2-chloroethyl)-2-(2-chloroethylamino)-hydroxy-tetrahydro-2H-1,3,2-oxazaphosphorin-2oxide and 240 mg (1 mmol) of cyclohexylammonium-2-mercaptoethanesulphonate were dissolved in 4 ml of water, mixed with a trace of trichloroacetic acid and stored for 20 hours at 0° C. The reaction mixture which was concentrated under vacuum was dissolved twice in ethanol and re-concentrated. It was then taken up in ethanol and precipitated with ether.

reactant | 3-(2-chloroethyl)-2-(2-chloroethylamino)-hydroxy-tetrahydro-2H-1,3,2-oxazaphosphorin-2oxide | 1 mmol, 277 mg | ClCCN1P(OCCC1O)(NCCCl)=O | C7H15Cl2N2O3P
reactant | cyclohexylammonium 2-mercaptoethanesulphonate | 1 mmol, 240 mg | C1(CCCCC1)[NH3+].SCCS(=O)(=O)[O-]
reactant | trichloroacetic acid | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
solvent | water | 4 ml | O | H2O
product | 2-[3-(2-chloroethyl)-2-(2-chloroethylamino)-2-oxo-tetrahydro-2H-1,3,2-oxazaphosphorin-4-yl-thio]-ethanesulphonic acid cyclohexylammonium salt | C1(CCCCC1)[NH3+].ClCCN1P(OCCC1SCCS(=O)(=O)[O-])(=O)NCCCl | InChI=1S/C9H19Cl2N2O5PS2.C6H13N/c10-2-4-12-19(14)13(5-3-11)9(1-6-18-19)20-7-8-21(15,16)17;7-6-4-2-1-3-5-6/h9H,1-8H2,(H,12,14)(H,15,16,17);6H,1-5,7H2
